US08455646B2
Preparation of phenyl-phenylamino-acetic acid 1-methyl-azepan-4-yl ester (C107)
A mixture of 2-phenyl-2-(phenylamino)acetic acid (I1) (175 mg, 0.77 mmol), DCC (192 mg, 0.92 mmol), HOBt (124 mg, 0.92 mmol) and 1-methyl-azepan-4-ol (100 mg, 0.77 mmol) in dry THF (100 mL) is stirred at RT overnight under nitrogen flowstream (UPLC-MS monitoring: complete conversion). The solvent is evaporated and the residue is taken up with aq. HCl and washed with EtOAc. The aqueous phase is basified with NaHCO3 and extracted with DCM (three times). The organic layers are combined, dried over Na2SO4, filtered and evaporated to dryness. The resulting crude is first purified by flash chromatography (DCM to DCM/MeOH=95/5) and then by preparative LC-MS. The purified compound is partitioned between sat. NaHCO3 and DCM, the organic phase is dried over Na2SO4, filtered and evaporated under vacuum to give 53 mg of the title compound as brown oil (20% yield, mixture of diastereoisomers).

reactant | 2-phenyl-2-(phenylamino)acetic acid | 0.77 mmol, 175 mg | C1(=CC=CC=C1)C(C(=O)O)NC1=CC=CC=C1 | C14H13NO2
reactant | DCC | 0.92 mmol, 192 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 0.92 mmol, 124 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-methyl-azepan-4-ol | 0.77 mmol, 100 mg | CN1CCC(CCC1)O | C7H15NO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | phenyl-phenylamino-acetic acid 1-methyl-azepan-4-yl ester | 53 mg, 20% yield | CN1CCC(CCC1)OC(C(NC1=CC=CC=C1)C1=CC=CC=C1)=O | C21H26N2O2
